US06353018B1
Ethyl 2-ethoxy-3-{4-[2-(11H-5-oxa-10-thia-dibenzo[a,d]cyclohepten-11-yl)-ethoxy]-phenyl}-propionate.
A solution of 2-(11H-5-oxa-10-thia-dibenzo[a,d]cyclohepten-11-yl)-ethanol (4.1 g, 15.9 mmol) and triethylamine (5 ml) in benzene (80 ml) was treated with methanesulfonyl chloride (2.8 g, 24 mmol) and the mixture stirred for 2 h. The resulting reaction mixture was treated with water (50 ml) and the phases were separated. The organic phase was dried (MgSO4) and the solvent evaporated, affording a residue, which was dissolved in dimethylformamide (10 ml). To this solution were added ethyl 3-(4-hydroxyphenyl)-2-ethoxypropionate (3.8 g, 16 mmol) and potassium carbonate (2.8 g, 20 mmol), and the mixture was heated to 100° C. for 10 h. Water (100 ml) and benzene (150 ml) were added, and the organic phase was collected and washed with water (2×50 ml), dried (K2CO3) and evaporated. The resulting residue was purified by column chromatography on silica gel (benzene and chloroform as eluents) to give the title compound as an oil: 4.6 g (60%).

reactant | 2-(11H-5-oxa-10-thia-dibenzo[a,d]cyclohepten-11-yl)-ethanol | 15.9 mmol, 4.1 g | C1=CC=CC=2OC3=C(SC(C21)CCO)C=CC=C3 | C15H14O2S
reactant | methanesulfonyl chloride | 24 mmol, 2.8 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl 3-(4-hydroxyphenyl)-2-ethoxypropionate | 16 mmol, 3.8 g | OC1=CC=C(C=C1)CC(C(=O)OCC)OCC | C13H18O4
reactant | potassium carbonate | 20 mmol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | Water | 100 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | Ethyl 2-ethoxy-3-{4-[2-(11H-5-oxa-10-thia-dibenzo[a,d]cyclohepten-11-yl)-ethoxy]-phenyl}-propionate | C(C)OC(C(=O)OCC)CC1=CC=C(C=C1)OCCC1C2=C(OC3=C(S1)C=CC=C3)C=CC=C2 | C28H30O5S
